### PR TITLE
[Merged by Bors] - feat(Data/Set/Card): Add simplification theorem about cardinalities of "big" cartesian products.

### PR DESCRIPTION
**Pull request by chriseth**
This extends the theorem above from just pairs to arbitrary tuples.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Card.lean [hunk 1]
```diff
@@ -180,6 +180,13 @@ theorem encard_prod {s : Set α} {t : Set β} : (s ×ˢ t).encard = s.encard * t
   unfold encard
   simp [ENat.card_congr (Equiv.Set.prod ..)]
 
+@[simp]
+theorem encard_pi_eq_prod_encard [h : Fintype α] {ι : α → Type*} {s : ∀ i : α, Set (ι i)} :
+  (Set.pi Set.univ s).encard = ∏ i, (s i).encard := by
```
Comment (b-mehta) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
    (Set.pi Set.univ s).encard = ∏ i, (s i).encard := by
```

Comment (b-mehta) [inline Mathlib/Data/Set/Card.lean]: It would be nice to have a partial version of this, ie `(Set.pi t s).encard = ∏ i \in t, (s i).encard`

Comment (chriseth) [reply Mathlib/Data/Set/Card.lean]: I tried to modify it, but didn't succeed - I just barely understand the statement in its current form ;)

Isn't it general enough since `\alpha` can be equal to `t`? By introducing such a `t` the proof cannot use `Equiv.Set.univPi` any more, at least not directly.

Comment (b-mehta) [reply Mathlib/Data/Set/Card.lean]: It's not quite general enough in practice, but I agree it's tough to modify, so let's leave it as is for the moment.
